US04438271
(A) Preparation of 2-chloro-6-fluoroacetophenone
2-chloro-6-fluorobenzonitrile (42.3 g, 0.27 mol) is dissolved in anhydrous diethyl ether (170 ml) and methyl magnesium bromide (291 ml of a 2.8 M solution, 0.82 mol) is added. The whole is warmed to reflux (35° C.) overnight (16 hrs.). Then the reaction mixture is quenched in ice-water (380 ml) followed by the addition of concentrated H2SO4 (95 ml). The resultant mixture is heated to 100° C. for 3 hours and stirred overnight at room temperature. Pure product is then extracted from the mixture using chloroform (45.0 g, 95.9%).

reactant | 2-chloro-6-fluorobenzonitrile | 0.27 mol, 42.3 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 170 ml | C(C)OCC | C4H10O
product | 2-chloro-6-fluoroacetophenone | CC(=O)C1=C(C=CC=C1Cl)F | C8H6ClFO
